US06906084B2
5-amino-4-chloro-1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
24.4 mg 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-nitro-1H-indole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide were added to a solution of 58.5 mg tin chloride dihydrate in 1 ml ethanol. 0.5 ml 12 N aqueous hydrochloric acid was added and the mixture was stirred at room temperature for 16 hours. After cooling of the reaction mixture it was basified to pH 12 with saturated aqueous solution of sodium hydroxide and the product isolated by filtration. The product was obtained as a white solid which was dried under reduced pressure.

reactant | 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-nitro-1H-indole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | 24.4 mg | C(C)(C)N1CCC(CC1)NC(=O)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])CC1=NOC(=C1)C=1SC(=CC1)Cl | C25H26ClN5O4S
reactant | tin chloride dihydrate | 58.5 mg | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | 12 N, 0.5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 5-amino-4-chloro-1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C=1N(C2=CC=C(C(=C2C1)Cl)N)CC1=NOC(=C1)C=1SC(=CC1)Cl | C25H27Cl2N5O2S
